Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of multiple myeloma s/p autoSCT, now presenting with 
fevers.

Her diagnosis was made in ___ when she was noted to have 
proteinuria. SPEP notable for monoclonal protein and a bone 
marrow biopsy was performed with ___ plasma cells. At that 
time she had normal Cr and Ca but significant anemia. Skeletal 
survey without lytic lesions. Patient with rapid increase in IgG 
over the month leading into treatment and was then started on 
RVD. She completed 4 cycles, complicated by constipation, 
nausea/vomiting and mild neuropathy (bilateral tingling in 
fingers/feet, on gabapentin/amitryptyline). 

Bone marrow biopsy ___ without any evidence of disease. Was 
admitted on ___ for autologous SCT. Had an extended 
hospitalization c/b labial cellulitis/abscess and DVT in right 
arm in setting of PICC line, s/p Lovenox course. She was 
discharged on ___ from her transplant. 

She was also admitted ___ to ___ for fever, somnolence, 
tachycardia and nausea. Infectious workup was unrevealing, 
fevers resolved and she was discharged without antibiotics.

She is on maintenance lenalidomide. She completed 2 cycles 25mg 
and will now transition to 10mg on days ___ of day 28 cycle. 
Start date for ___ cycle ___.

For the last 4 days she has had cough with yellow sputum, sore 
throat, aches, chills and fevers at home (Tmax 102.6 last 
night). She presented to the ___ ___ where T 98.2 and infectious 
workup with UA and CXR was normal. Revlimid was held on ___. 
Since then she has continued to feel poorly and returned to the 
___. 

In the ___, initial vitals 98.7 96 134/73 18 97RA.
She received 1LNS, cefepime 2g, vanc 1g. She was transferred to 
the floor for further management.

ROS:
Last BM 2 days ago, normal brown stool, no 
diarrhea/constipation.
Mild recurrent lower extremity edema for 1 week, she has been 
missing her Lasix doses due to work.
Left shoulder/upper arm has been bothering her. Neuropathy in 
legs is improving.

Denies night sweats, headache, vision changes, rhinorrhea, SOB, 
CP, abd pain, nausea, vomiting, diarrhea, constipation, melena, 
hematochezia, dysuria, hematuria.
 
Past Medical History:
PMH/PSX:
- Asthma
- HTN
- TAH, tubal ligation

 
Social History:
___
Family History:
 Mother died of CRF complicated by CAD at age ___. Father died
of laryngeal cancer at ___. One sister with MM. One sister with
ovarian ___, One brother with liver CA. 10 healthy siblings

 
Physical Exam:
ADMISSION EXAM:
100.4 102.1 136/68 88 24 100RA
General: Lying in bed in NAD.  
HEENT: NCAT, EOMI. Sclerae anicteric, pupils ERRL. No petechiae, 
no other oral lesions.  
Neck: Supple, no LAD.  
CV: S1/S2, no m/r/g.  
Lungs: CTAB. Normal respiratory effort.  
Abdomen: Soft, mildly tender to deep palpation, no rebound 
tenderness, nondistended, +BS.  
GU: No Foley  
Ext: 2+ bilateral edema to shins. Legs are tender bilaterally.  
Neuro: A/O x3, appropriate affect.  

DISCHARGE EXAM:
98.3 83 112/58 18 100RA
General: Lying in bed in NAD.  
HEENT: NCAT, EOMI. Sclerae anicteric, pupils ERRL. No petechiae, 
no other oral lesions.  
Neck: Supple, no LAD.  
CV: S1/S2, no m/r/g.  
Lungs: CTAB. Normal respiratory effort.  
Abdomen: Soft, mildly tender to deep palpation, no rebound 
tenderness, nondistended, +BS.  
GU: No Foley  
Ext: 1+ bilateral edema to shins, improved since admission. 
Neuro: A/O x3, appropriate affect.  

 
Pertinent Results:
___ 11:05AM BLOOD WBC-5.2 RBC-2.87* Hgb-9.7* Hct-28.9* 
MCV-101* MCH-33.7* MCHC-33.4 RDW-15.3 Plt ___
___ 08:05AM BLOOD WBC-5.2 RBC-2.88* Hgb-9.7* Hct-28.9* 
MCV-100* MCH-33.8* MCHC-33.7 RDW-14.5 Plt ___
___ 07:45AM BLOOD WBC-4.4 RBC-2.92* Hgb-10.1* Hct-29.1* 
MCV-100* MCH-34.5* MCHC-34.7 RDW-14.8 Plt ___

___ 11:05AM BLOOD Neuts-73.6* ___ Monos-5.3 Eos-1.4 
Baso-0.6
___ 07:45AM BLOOD Neuts-60.8 ___ Monos-5.3 Eos-1.8 
Baso-0.5

___ 11:05AM BLOOD ___ PTT-28.9 ___

___ 11:05AM BLOOD Glucose-137* UreaN-9 Creat-1.0 Na-138 
K-3.6 Cl-101 HCO3-24 AnGap-17
___ 08:05AM BLOOD Glucose-129* UreaN-9 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-29 AnGap-12
___ 07:45AM BLOOD Glucose-137* UreaN-10 Creat-0.8 Na-140 
K-3.9 Cl-103 HCO3-28 AnGap-13
___ 06:35AM BLOOD Glucose-112* UreaN-12 Creat-0.8 Na-141 
K-3.8 Cl-104 HCO3-30 AnGap-11

___ 11:05AM BLOOD ALT-16 AST-25 AlkPhos-59 TotBili-0.6
___ 08:05AM BLOOD ALT-16 AST-17 AlkPhos-56 TotBili-0.7
___ 07:45AM BLOOD LD(LDH)-219
___ 11:05AM BLOOD Lipase-26

___ 11:05AM BLOOD TotProt-6.6 Albumin-4.0 Globuln-2.6 
Calcium-8.9 Phos-3.7 Mg-1.7
___ 08:05AM BLOOD Calcium-8.8 Phos-3.8 Mg-1.7
___ 07:45AM BLOOD Calcium-9.3 Phos-3.4 Mg-1.9
___ 06:35AM BLOOD Calcium-9.0 Phos-3.6 Mg-1.9

___ 07:45AM BLOOD Vanco-9.0*

___ 09:14AM BLOOD ___ pO2-188* pCO2-41 pH-7.38 
calTCO2-25 Base XS-0
___ 11:11AM BLOOD Lactate-2.1*
___ 09:14AM BLOOD Lactate-1.4

URINE:
___ 11:00AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-1
___ 11:00AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:00AM URINE Color-Yellow Appear-Clear Sp ___

MICRO:
Blood, urine cultures with no growth
Throat culture negative for group A Strep
Rapid Respiratory Viral Screen & Culture negative
Lyme serology negative

IMAGING:
--------------
CXR ___:
No evidence of acute cardiopulmonary process. 

CT sinus ___:
Minimal mucosal thickening. Otherwise normal study. 

 
Brief Hospital Course:
Ms. ___ is a ___ F with history of Multiple Myeloma s/p 
autologous stem cell transplant, now presenting with fevers. 

#Fevers:
With regard to her fevers, she was on lenalidomide prior to her 
admission (last dose taken ___ she was not neutropenic. 
Infectious workup including CXR, UA, blood/urine culture, sinus 
CT, throat culture, Respiratory Viral Antigen Screen, and Lyme 
serologies were negative. She had history of previous labial 
cellulitis but no corresponding symptoms on this admission. Her 
presentation was most consistent with a viral 
pharyngitis/bronchitis. She was initially treated with IV 
hydration and vancomycin/cefepime, but given negative workup and 
low suspicion for bacterial infection, antibiotics were 
discontinued and she remained afebrile with improving cough at 
time of discharge. 

#Multiple Myeloma:
With regard to her multiple myeloma, on admission, she was Day + 
___ s/p high dose Melphalan and autologous stem cell rescue. She 
was on maintenance ___, completed 2 cycles of 25mg and 
started 10mg ___ cycle ___. Lenalidomide was held on ___ in the 
setting of her acute illness. She will need to follow up with 
her outpatient oncology office regarding when to restart this 
medication.

# Infectious Prophylaxis:  
Continued Acyclovir and Bactrim  

# Neuropathy: Followed by neurology. No recent falls.  
Continued gabapentin, cymbalta, amitriptyline.

# CHF: Mild biventricular systolic dysfunction. Suspicion for 
chemotherapy-related systolic dysfunction vs amyloid (though 
normal LV thickness). Last stress ECHO with poor exercise 
tolerance ___ METS), improved EF 50-55%.  Held carvedilol and 
Lasix initially given acute infection, concern for developing 
septic physiology. Carvedilol was resumed at discharge, Lasix 
may be resumed at outpatient follow-up.

# History of DVT:  
Was previously on enoxaparin, not on anticoagulation currently. 
Continued aspirin.

TRANSITION ISSUES:
- ___ was held on ___ in the setting of her acute 
illness. She will need to follow up with her outpatient oncology 
office regarding when to restart this medication.
- Her Lasix was held during admission due to normotension. This 
may need to be resumed if appropriate at her follow-up primary 
care appointment.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Lenalidomide 10 mg BY MOUTH DAILY 
3. Carvedilol 6.25 mg PO BID 
4. Furosemide 20 mg PO DAILY 
5. Acyclovir 400 mg PO Q8H 
6. Pantoprazole 40 mg PO Q24H 
7. Aspirin 81 mg PO DAILY 
8. Duloxetine 30 mg PO DAILY 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Amitriptyline 25 mg PO HS 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Amitriptyline 25 mg PO HS 
3. Aspirin 81 mg PO DAILY 
4. Duloxetine 30 mg PO DAILY 
5. Gabapentin 600 mg PO TID 
6. Pantoprazole 40 mg PO Q24H 
7. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
8. Carvedilol 6.25 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Viral pharyngitis

SECONDARY DIAGNOSIS:
Multiple myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to fevers. You were treated with 
antibiotics and IV fluids for possible infection. Diagnostic 
tests including chest X-ray, CT of the sinuses, and urine and 
blood tests all showed no evidence of an acute bacterial 
infection. A throat culture showed no evidence of strep throat. 
Your symptoms were thought to be most likely due to a viral 
infection. Your fevers resolved and your antibiotics were 
stopped, and your sore throat and cough were improving at time 
of discharge.

After discharge, please follow up with your regular providers 
(see below).
 
Followup Instructions:
___